US06982348B2
A solution of tert-pentylbenzene (10.04 g, 67.72 mmol) and hexamethylenetetramine (9.49 g, 67.7 mmol) in trifluoroacetic acid (100 ml) was stirred at 90° C. overnight. The reaction solution was evaporated under reduced pressure, diluted with water, alkalified with potassium carbonate, and extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give a crude product of 4-(tert-pentyl)benzaldehyde as a dark brown liquid.

reactant | tert-pentylbenzene | 67.72 mmol, 10.04 g | C(C)(C)(CC)C1=CC=CC=C1 | C11H16
reactant | hexamethylenetetramine | 67.7 mmol, 9.49 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(tert-pentyl)benzaldehyde | C(C)(C)(CC)C1=CC=C(C=O)C=C1 | C12H16O
